US07442797B2
A solution of phenyllithium.cyclohexane/diethyl ether (40.9 ml, 38.4 mmol) was dropwise added to a mixture of 2,2′-bipyridine (5.0 g, 32.0 mmol) and diethyl ether (50 ml) at 5° C. while 15 minutes. This reaction mixture was stirred at room temperature for 2 hours, then the mixture was poured into water, an organic layer was separated from the mixture, furthermore an aqueous layer was extracted with dichloromethane. The organic layer was combined, and the solvent was distilled off, and the residue was diluted with acetone (50 ml), then saturated potassium permanganate acetone solution (120 ml) was added thereto, the mixture was stirred at room temperature for 1 hour. The obtained reaction mixture was filtered by Celite, the solvent of the filtrate was distilled off, and the residue was purified by silica gel column chromatography and recrystallization, thereby obtaining 4.2 g of 6-phenyl-2,2′-bipyridine as white crystal. Yield: 55.4%.

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | cyclohexane diethyl ether | 38.4 mmol, 40.9 ml | C1CCCCC1.C(C)OCC
reactant | 2,2′-bipyridine | 32.0 mmol, 5.0 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 6-phenyl-2,2′-bipyridine | 4.2 g, Yield: 55.4% | C1(=CC=CC=C1)C1=CC=CC(=N1)C1=NC=CC=C1 | C16H12N2
